US04125726
8-Chloro-6-(2-chlorophenyl)-1-methylthio-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide
A mixture of 3 g (0.007 mole) of 8-chloro-6-(2-chlorophenyl)-1-methylthio-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid methyl ester and 60 ml of 25% solution of ammonia in methanol was heated at 130° in a steel bomb for 18 hrs. The contents of the bomb were evaporated at reduced pressure to give light tan crystals, which were recrystallized from methanol/methylene chloride to yield light tan prisms with mp 270°-274° (dec.). Uv λ max 217 mμ (ε=47,200) infl 242 (23,200) sh 270 (11,500), ir (KBr) 3365, 3250, 3215, 3150 cm-1 (NH2) 1675, 1650, 1590 (CON).

reactant | 8-chloro-6-(2-chlorophenyl)-1-methylthio-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid methyl ester | 0.007 mole, 3 g | COC(=O)C=1N=C(N2C1CN=C(C1=C2C=CC(=C1)Cl)C1=C(C=CC=C1)Cl)SC | C20H15Cl2N3O2S
reactant | ammonia | N | H3N
reactant | KBr | [K+].[Br-]
solvent | methanol | CO | CH4O
product | 8-Chloro-6-(2-chlorophenyl)-1-methylthio-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | ClC=1C=CC2=C(C(=NCC=3N2C(=NC3C(=O)N)SC)C3=C(C=CC=C3)Cl)C1 | C19H14Cl2N4OS
